US04336268
10 g of 3-(m-methoxyphenyl)-2-cyclohexen-1-ol obtained by reducing 3-(m-methoxyphenyl)-2-cyclohexene-1-one with sodium borohydride, are dissolved in 100 ml of xylene, whereupon 12 g of N,N-dimethylacetamide dimethyl acetal are added, and the mixture is boiled at reflux for 8 hours. After distillation of the solvent, the oil remaining behind is chromatographed on a 30-fold amount of silica gel. The fractions which are uniform in accordance with thin-layer chromatography and which are produced by elution with methylene chloride, are combined and evaporated, and there is obtained pure 1-(m-methoxyphenyl)-N,N-dimethyl-3-cyclohexene-1-acetamide in the form of a pale yellowish oil.

reactant | 3-(m-methoxyphenyl)-2-cyclohexene-1-one | COC=1C=C(C=CC1)C1=CC(CCC1)=O | C13H14O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | N,N-dimethylacetamide dimethyl acetal | 12 g | COC(C)(N(C)C)OC | C6H15NO2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(m-methoxyphenyl)-N,N-dimethyl-3-cyclohexene-1-acetamide | COC=1C=C(C=CC1)C1(CC=CCC1)CC(=O)N(C)C | C17H23NO2
